* Schematics Netlist *



C_C2         0 $N_0001  0.01u  
C_C1         0 $N_0002  1n  
R_R3         $N_0002 +5v  500k  
X_U1A         $N_0004 $N_0005 +5v 0 $N_0003 LM324
X_U3A         $N_0003 $N_0006 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_X2         0 $N_0006 $N_0007 $N_0003 $N_0001 $N_0002 $N_0002 +5v 555D PARAMS:
+  MAXFREQ=3E6
R_R4         0 $N_0007  1k  
R_R2         0 $N_0005  1k  
R_R1         $N_0005 +5v  1k  
V_V4         $N_0004 0  
+PULSE 0 5 0 
