* SpiceNetList
* 
* Exported from exemple.sch at 14/10/2018 11:28
* 
* EAGLE Version 9.2.1 Copyright (c) 1988-2018 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------
.PARAM rd=1n
.PARAM fd=1n

* --------- devices ---------
V_V5 L0 0 DC 0V AC 0 
V_V2 VDD 0 DC 3V AC 0 
X_X5 N_2 RST_SIG ATODB 
R_R1 N_1 A_OUT 10k 
X_X14 L1 LOGIC1 ATODB 
R_R2 0 N_1 1k 
X_X2 A_OUT A_OUT_DIG ATODB 
X_X1 VIN N_1 VDD 0 A_OUT OPAMP 
V_V3 CLKIN 0 DC 0V AC 0 PULSE(0 3 0 1n 1n 1m 2m) 
X_X7 N_3 SET_SIG ATODB 
V_V6 N_2 0 DC 0V AC 0 PULSE(0 3 5m 1n 1n 2m 1000) 
X_X16 CLKIN CLK ATODB 
X_X6 A_OUT_DIG CLK SET_SIG RST_SIG Q_OUT notA_BUF_DIG DFF1 
R_R3 0 AND_FILTER 1k 
V_V7 N_3 0 DC 0V AC 0 PULSE(0 3 0 1n 1n 2m 1000) 
X_X8 AND N_5 DTOAB 
V_V1 VIN 0 DC 1.5V AC 0 PULSE(0 300m 0 1n 1n 3.3m 7m) 
V_V4 L1 0 DC 3V AC 0 
X_X3 Q_OUT CLK AND AND2 
C_C1 AND_FILTER N_5 1u 
X_X4 Q_OUT CLK OR OR2 
X_X15 L0 LOGIC0 ATODB 

X_D1 CLK DIG_CLK DTOAB1
X_D2 AND DIG_AND DTOAB1
X_D3 OR DIG_OR DTOAB1
X_D4 A_OUT_DIG DIG_A_OUT_DIG DTOAB1
X_D5 Q_OUT DIG_Q_OUT DTOAB1
X_D6 RST_SIG DIG_RST_SIG DTOAB1
X_D7 SET_SIG DIG_SET_SIG DTOAB1
* --------- models ---------

* (model found in library)

* Autodesk EAGLE
* BASIC OP AMP MODEL
* Device Pins In+ In- vdd vss Vout
* vdd vss unused in this model!!
.SUBCKT opamp 1 2 vdd vss vout
*
* INPUT
RIN   1   2   1e9
*
*  AMPLIFIER STAGE: GAIN, POLE, SLEW
*   Aol=10000, fu=1000000 Hz
G1   0    10  VALUE = { 1e-2 * V(1,2)  }
R1   10   0   1e6
C1   10   0   1.59e-9
*
* 2ND POLE 
G2   0 20   10 0  1e-6
R2   20       0     1e6
C2   20       0     3.3e-14
*
* 3RD POLE 
G3   0 30   20 0 1e-6
R3   30       0     1e6
C3   30       0     3.3e-14
*
* OUTPUT STAGE
EBUFFER 80 0  30  0    1
ROUT 80 vout 100
.ENDS opamp


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT ATODB A D
abridge [A] [D] adc_buff
.model adc_buff adc_bridge(in_low = 0.3 in_high = 2.5)
.ENDS ATODB


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT DFF1 D CLK S R Q !Q
a1 D CLK S R Q !Q flop1
.model flop1 d_dff(clk_delay = 13.0e-9 set_delay = 25.0e-9
+ reset_delay = 27.0e-9 ic = 2 rise_delay = 10.0e-9
+ fall_delay = 3e-9)
.ENDS DFF1


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT OR2 A B OUT
a1 [A B] OUT or2
.model or2 d_or(rise_delay = 1n fall_delay = 1n)
.ENDS OR2


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT AND2 A B OUT
a1 [A B] OUT and2
.model and2 d_and(rise_delay = 1n fall_delay = 1n)
.ENDS AND2


* (model found in library)

**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT DTOAB D A
abridge [D] [A] dac_buff
.model dac_buff dac_bridge(out_low = 0.3 out_high = 2.5)
.ENDS DTOAB


**********************
* Autodesk EAGLE - SPICE Model File
**********************
.SUBCKT DTOAB1 D A
abridge [D] [A] dac_buff
 .model dac_buff dac_bridge(out_low = 0.3 out_high = 2.5)
.ENDS DTOAB1

* --------- simulation ---------


.control
set filetype=ascii
TRAN 0.005 1 0 0.005 
write exemple.sch.sim V(A_OUT) V(DIG_CLK) V(DIG_AND) V(DIG_OR) V(DIG_A_OUT_DIG) V(DIG_Q_OUT) V(DIG_RST_SIG) V(DIG_SET_SIG) V(AND_FILTER) I(V_V4) I(V_V5) I(V_V1) I(V_V6) I(V_V2) I(V_V3) I(V_V7)
.endc

.END










